US05744426
1-Bromomethyl-4-chloro-3-(2,4-dichloro-5-(dibromomethyl)phenyl)-5-difluoromethoxy-1H-pyrazole
A solution of 6 g (12 mmol) of 4-chloro-3-(2,4-dichloro-5-(di-bromomethyl)phenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole and 6.4 g (36 mmol) of N-bromosuccinimide in 800 ml of tetrachloromethane was irradiated for 2 hours with a 150 W high-pressure mercury lamp and a UV lamp. The solids were then removed by filtration, and the filtrate was concentrated. Silica gel chromatography of the residue (eluent: hexane/ethyl acetate=4:1) gave 2 g of the target product. 1H-NMR (250 MHz, in CDCl3): δ [ppm]=5.87(s,2H); 6.82(t,1H); 7.03(s,1H); 7.52(s,1H); 8.08(s,1H).

reactant | 4-chloro-3-(2,4-dichloro-5-(di-bromomethyl)phenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 12 mmol, 6 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)C(Br)Br)Cl)Cl | C12H7Br2Cl3F2N2O
reactant | N-bromosuccinimide | 36 mmol, 6.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 800 ml | ClC(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-4-chloro-3-(2,4-dichloro-5-(dibromomethyl)phenyl)-5-difluoromethoxy-1H-pyrazole | 2 g | BrCN1N=C(C(=C1OC(F)F)Cl)C1=C(C=C(C(=C1)C(Br)Br)Cl)Cl | C12H6Br3Cl3F2N2O
